US07723455B2
A 4.1 Preparation of 2,7-bis[2-(4-bromophenyl)vinyl]-9,10-dibutyl-9,10-dimethoxy-9,10-dihydrophenanthrene (EM 7)
22.9 g (74.7 mmol) of diethyl 4-bromobenzylphosphonate were dissolved in 200 ml of DMF and admixed with 14.4 g (149 mmol) of NaOtBu at about 5° C. under protective gas. After stirring at 5° C. for 30 minutes, 13.9 g (34 mmol) of 9,10-dibutyl-9,10-dimethoxy-9,10-dihydrophenanthrene-2,7-dicarbaldehyde were added at a maximum temperature of 5° C. over a period of 15 minutes and the mixture was subsequently stirred at 5° C. for 1 hour. To work up the mixture, 50 ml of 4M HCl were added dropwise, the precipitate formed was filtered off with suction, washed with water and MeOH and dried. The solid was subsequently recrystallized three times from EtOH/toluene to give 21.1 g (87%) of the monomer having a purity determined by RP-HPLC of 99.8%.

reactant | diethyl 4-bromobenzylphosphonate | 74.7 mmol, 22.9 g | BrC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H16BrO3P
reactant | NaOtBu | 149 mmol, 14.4 g | CC(C)(C)[O-].[Na+]
reactant | 9,10-dibutyl-9,10-dimethoxy-9,10-dihydrophenanthrene-2,7-dicarbaldehyde | 34 mmol, 13.9 g | C(CCC)C1(C2=CC(=CC=C2C=2C=CC(=CC2C1(OC)CCCC)C=O)C=O)OC | C26H32O4
reactant | HCl | 4M, 50 ml | Cl | ClH
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2,7-bis[2-(4-bromophenyl)vinyl]-9,10-dibutyl-9,10-dimethoxy-9,10-dihydrophenanthrene | 21.1 g, 87% | BrC1=CC=C(C=C1)C=CC1=CC=2C(C(C3=CC(=CC=C3C2C=C1)C=CC1=CC=C(C=C1)Br)(OC)CCCC)(OC)CCCC | C40H42Br2O2
